US07507740B2
(iii) Production of 2-{2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethanol
To a solution of 2-{2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethyl benzoate (760 mg) in tetrahydrofuran (7.0 mL) was added 1N aqueous sodium hydroxide solution (7.0 mL), and the mixture was stirred at room temperature for 14 hrs. 1N Hydrochloric acid (7.0 mL) was added to the reaction mixture, and the mixture was stirred at room temperature for 10 min. and extracted with a mixed solvent (100 mL×3) of ethyl acetate/tetrahydrofuran (1/1). The organic layer washed successively with 5% aqueous sodium hydrogen carbonate and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to basic silica gel column chromatography (eluent:ethyl acetate/methanol=100/0→90/10). The object fraction was concentrated under reduced pressure. A mixed solvent of ethanol/isopropyl ether (1/4) was added to the residue, and the mixture was heated to 80° C. and then allowed to cool to room temperature. The resultant precipitate was collected by filtration and dried under reduced pressure to give the title compound (431 mg) as white powder crystals.

reactant | 2-{2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethyl benzoate | 760 mg | C(C1=CC=CC=C1)(=O)OCCOCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OCC2=CC(=CC=C2)F)Cl | C30H26ClFN4O4
reactant | sodium hydroxide | 1N, 7.0 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 7.0 mL | Cl | ClH
solvent | tetrahydrofuran | 7.0 mL | O1CCCC1 | C4H8O
product | 2-{2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethanol | 431 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CCOCCO | C23H22ClFN4O3
